US06159904
72-2) Synthesis of 4-methoxymethyl-5,8-dimethyl-6-carboxythiochroman-1,1-dioxide
To a solution of 0.32 g (1.1 mmol) of 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman-1,1-dioxide in 1 ml of dioxane was added 3.8 ml of a sodium hypochlorite aqueous solution, and the mixture was allowed to react at 0° C. for 1 hour and further allowed to react at room temperature overnight. A 20 wt % sodium sulfite aqueous solution was added to the reaction mixture, and the mixture was washed with ethyl acetate. An aqueous layer was acidified with concentrated hydrochloric acid, and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution, and an organic layer was dried over anhydrous sodium sulfate and filtered. Then, the solvent was distilled off under reduced pressure to give 0.24 g (yield 75%) of the titled compound as a crude product.

reactant | 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman-1,1-dioxide | 1.1 mmol, 0.32 g | C(C)(=O)C=1C(=C2C(CCS(C2=C(C1)C)(=O)=O)COC)C | C15H20O4S
reactant | sodium hypochlorite | 3.8 ml | Cl[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-methoxymethyl-5,8-dimethyl-6-carboxythiochroman-1,1-dioxide | 0.24 g, yield 75% | COCC1CCS(C2=C(C=C(C(=C12)C)C(=O)O)C)(=O)=O | C14H18O5S
